US04874785
In a reaction vessel was placed 13.14 grams of dodecyl dimethyl 2-hydroxyethyl ammonium bromide, 21.22 grams of acetone solvent and 4.72 grams of sodium carbonate. While stirring under nitrogen, 3.27 grams of acetyl chloride was added dropwise. Gas evolution occurred. The mixture was then refluxed (approx. 60° C.) for 6 hours. The solvent was removed under vacuum. The residue was extracted with isopropanol to dissolve the quat and the solution was filtered hot to remove sodium chloride and sodium carbonate. The filtrate was evaporated under vacuum leaving as the product dodecyl dimethyl acetyloxyethyl ammonium bromide.

reactant | dodecyl dimethyl 2-hydroxyethyl ammonium bromide | 13.14 grams | [Br-].C(CCCCCCCCCCC)[N+](CCO)(C)C
reactant | sodium carbonate | 4.72 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetyl chloride | 3.27 grams | C(C)(=O)Cl | C2H3ClO
solvent | acetone | 21.22 grams | CC(=O)C | C3H6O
product | dodecyl dimethyl acetyloxyethyl ammonium bromide | [Br-].C(CCCCCCCCCCC)[N+](CCOC(C)=O)(C)C | InChI=1S/C18H38NO2.BrH/c1-5-6-7-8-9-10-11-12-13-14-15-19(3,4)16-17-21-18(2)20;/h5-17H2,1-4H3;1H/q+1;/p-1
